US06579875B1
b) N-(6-Chloro-5-cyclobutylpyridazin-3-yl)-N′(3,5-difluorobenzylidene)hydrazine
3-Chloro-4-cyclobutyl-6-hydrazinopyridazine (0.502 g, 2.53 mmol) and 3,5-difluorobenzaldehyde (285 ml, 2.78 mmol) were stirred in 0.2M hydrochloric acid (10 ml) for 2 hours. This product was then collected by filtration and dried (0.81 g, 99%). MS (ES+) 323 [MH]+, 325 [MH]+.

reactant | 3-Chloro-4-cyclobutyl-6-hydrazinopyridazine | 2.53 mmol, 0.502 g | ClC=1N=NC(=CC1C1CCC1)NN | C8H11ClN4
reactant | 3,5-difluorobenzaldehyde | 2.78 mmol, 285 ml | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | hydrochloric acid | 0.2M, 10 ml | Cl | ClH
product | N-(6-Chloro-5-cyclobutylpyridazin-3-yl)-N′(3,5-difluorobenzylidene)hydrazine | ClC1=C(C=C(N=N1)NN=CC1=CC(=CC(=C1)F)F)C1CCC1 | C15H13ClF2N4
